US08426411B2
To a solution of (3R,4S)-3-ethyl-4-(hydroxymethyl)cyclopentanol (4.00 g, 27.7 mmol) in MeCN (70 mL) and water (30.0 mL) was added potassium bromate (1.487 mL, 29.1 mmol) and CAN (0.760 g, 1.387 mmol). The reaction mixture was heated to about 80° C. After about 2 h, the reaction mixture was cooled to rt and Et2O (100 mL) was added. The organic layer was separated, washed with brine (30 mL), concd in vacuo and purified by chromatography on silica gel eluting with EtOAc/heptane (20-60%) to provide (3R,4S)-3-ethyl-4-(hydroxymethyl)cyclopentanone (2.4 g, 61%) as an oil. 1H NMR (400 MHz, CDCl3) δ 3.79 (dd, J=10.5, 5.3 Hz, 1H), 3.70 (dd, J=10.5, 6.5 Hz, 1H), 2.55-2.44 (m, 1H), 2.41-2.25 (m, 4H), 2.15-2.05 (m, 1H), 1.55-1.65 (m, 2H), 1.43-1.30 (m, 1H), 0.97 (t, J=7.3 Hz, 3H).

reactant | (3R,4S)-3-ethyl-4-(hydroxymethyl)cyclopentanol | 27.7 mmol, 4.00 g | C(C)[C@@H]1CC(C[C@@H]1CO)O | C8H16O2
reactant | potassium bromate | 29.1 mmol, 1.487 mL | Br(=O)(=O)[O-].[K+]
reactant | Et2O | 100 mL | CCOCC | C4H10O
solvent | MeCN | 70 mL | CC#N | C2H3N
solvent | water | 30.0 mL | O | H2O
catalyst | CAN | 1.387 mmol, 0.760 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | (3R,4S)-3-ethyl-4-(hydroxymethyl)cyclopentanone | 2.4 g, 61% | C(C)[C@@H]1CC(C[C@@H]1CO)=O | C8H14O2
